US07462623B2
5,7-Difluoro-3,4-dihydroquinazolin-4-one was reacted with isopropanol to give 7-fluoro-5-isopropoxy-3,4-dihydroquinazolin-4-one in 73% yield; NMR Spectrum: (DMSOd6) 1.31 (s, 6H), 4.73 (m, 1H), 6.89 (m, 1H), 6.95 (m, 1H), 7.96 (s, 1H); Mass Spectrum: M+H+ 223.

reactant | 5,7-Difluoro-3,4-dihydroquinazolin-4-one | FC1=C2C(NC=NC2=CC(=C1)F)=O | C8H4F2N2O
reactant | isopropanol | C(C)(C)O | C3H8O
product | 7-fluoro-5-isopropoxy-3,4-dihydroquinazolin-4-one | 73% yield | FC1=CC(=C2C(NC=NC2=C1)=O)OC(C)C | C11H11FN2O2
